US09260408B2
Acetic acid [5-(1-methyl-2-oxo-1,2,3,4-tetrahydro-quinolin-6-yl)-pyridin-3-ylcarbamoyl]-methyl ester
To a solution of 6-(5-amino-pyridin-3-yl)-1-methyl-3,4-dihydro-1H-quinolin-2-one hydrochloride (intermediate A-2, 0.045 g, 0.155 mmol) in DCM (1.5 mL) was added TEA (0.039 g, 0.388 mmol) followed by 2-chloro-2-oxoethyl acetate (0.017 g, 0.124 mmol) in DCM (1 mL) and the reaction mixture was stirred at room temperature for 2 h. The mixture was diluted with DCM, poured into aq. NaHCO3 (10 mL) and the aqueous layer was extracted with DCM (2×25 mL). Combined organics were washed with brine, dried over Na2SO4, filtered and evaporated to dryness. The residue was purified by silica gel flash chromatography eluting with a 0 to 5% MeOH-DCM gradient to give the title compound (0.025 g, 46%) as a light brown solid. MS: 354.2 (M+H+).

reactant | 6-(5-amino-pyridin-3-yl)-1-methyl-3,4-dihydro-1H-quinolin-2-one hydrochloride | 0.155 mmol, 0.045 g | Cl.NC=1C=C(C=NC1)C=1C=C2CCC(N(C2=CC1)C)=O
reactant | 2-chloro-2-oxoethyl acetate | 0.124 mmol, 0.017 g | C(C)(=O)OCC(=O)Cl | C4H5ClO3
reactant | NaHCO3 | 10 mL | C(=O)(O)[O-].[Na+]
solvent | DCM | 1.5 mL | C(Cl)Cl | CH2Cl2
solvent | DCM | 1 mL | C(Cl)Cl | CH2Cl2
product | Acetic acid [5-(1-methyl-2-oxo-1,2,3,4-tetrahydro-quinolin-6-yl)-pyridin-3-ylcarbamoyl]-methyl ester | 0.025 g, 46% | CN1C(CCC2=CC(=CC=C12)C=1C=C(C=NC1)NC(=O)COC(C)=O)=O | C19H19N3O4
